US09085555B2
were obtained using the same protocols as described in Scheme B28 steps D and E for the preparation of (1R,3S,5S) and (1S,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester starting from (1R,3S,5S) and (1S,3S,5R)-5-methoxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester. NaOH was replaced by LiOH.H2O in step D. The diastereoisomers were separated by flash column chromatography on silica gel (c-hexane/EtOAc 1:1 to EtOAc) to give (1S,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-methoxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester as a colorless oil: TLC, Rf (c-hexane/EtOAc 1:1)=0.50; MS (UPLC/MS): 413.3/415.2 [M+H]+, 457.3/459.3 [M+HCOO]−; tR (HPLC conditions a): 3.74 min and (1R,3S,5S)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-methoxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester as a colorless oil: TLC, Rf (c-hexane/EtOAc 1:1)=0.30; MS (UPLC/MS): 413.2/415.3 [M+H]+, 457.3/459.3 [M+HCOO]−; tR (HPLC conditions a): 3.57 min.

reactant | (1S,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]2C[C@]2(C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)CO | C19H24ClFN2O4
reactant | (1S,3S,5R)-5-methoxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester | C(C)OC(=O)[C@H]1N([C@H]2C[C@]2(C1)COC)C(=O)OC(C)(C)C | C15H25NO5
reactant | NaOH | [OH-].[Na+]
reactant | LiOH.H2O | O[Li].O
product | (1S,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-methoxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]2C[C@]2(C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)COC | C20H26ClFN2O4
